US05849735
Methyl-2-[(4-ethoxy-oxobutyl)amino]benzoate
A mixture of 19.2 g of methyl 2-aminobenzoate and 9.6 g of ethyl γ-bromobutyrate is heated at 80°-85° C. for 24 hours, cooled to room temperature and filtered. The solid is washed with CH2Cl2 and the filtrate washed with 1NHCl, H2O, 1NNaHCO3 and brine. The solvent is removed to give an oil. The oil is distilled and the fraction boiling at 45°-75° C. and 130°-160° C. were collected and discarded. The residue is the product (55.4 g of oil)

reactant | methyl 2-aminobenzoate | 19.2 g | NC1=C(C(=O)OC)C=CC=C1 | C8H9NO2
reactant | ethyl γ-bromobutyrate | 9.6 g | BrCCCC(=O)OCC | C6H11BrO2
product | Methyl-2-[(4-ethoxy-oxobutyl)amino]benzoate | COC(C1=C(C=CC=C1)NCCCC(OCC)=O)=O | C14H19NO4
